.title nonlin_reg_4x4_alter_ald1106_single_output
.include "device_model/nmos_lvl1_ald1106.lib"
.subckt e0 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e0
.subckt e1 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e1
.subckt e2 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e2
.subckt e3 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e3
.subckt e4 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e4
.subckt e5 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e5
.subckt e6 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e6
.subckt e7 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e7
.subckt e8 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e8
.subckt e9 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e9
.subckt e10 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e10
.subckt e11 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e11
.subckt e12 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e12
.subckt e13 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e13
.subckt e14 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e14
.subckt e15 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e15
.subckt e16 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e16
.subckt e17 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e17
.subckt e18 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e18
.subckt e19 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e19
.subckt e20 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e20
.subckt e21 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e21
.subckt e22 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e22
.subckt e23 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e23
.subckt e24 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e24
.subckt e25 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e25
.subckt e26 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e26
.subckt e27 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e27
.subckt e28 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e28
.subckt e29 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e29
.subckt e30 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e30
.subckt e31 t_D t_S
V1 t_G 0 3.0000000000000000
XNMOS t_D t_G t_S 0 NMOSWRAP
.ends e31
RSO 11 17 1e12
VCLO 17 0 0
VMINUS 6 0 0.0000000000000000
VPLUS  8 0 0.4500000000000000
VVIN   16 0 0
X0 1 2 e0
X1 1 5 e1
X2 1 4 e2
X3 1 13 e3
X4 2 3 e4
X5 2 6 e5
X6 2 14 e6
X7 3 4 e7
X8 3 7 e8
X9 3 15 e9
X10 4 8 e10
X11 4 16 e11
X12 5 6 e12
X13 5 9 e13
X14 5 8 e14
X15 6 7 e15
X16 6 10 e16
X17 7 8 e17
X18 7 11 e18
X19 8 12 e19
X20 9 10 e20
X21 9 13 e21
X22 9 12 e22
X23 10 11 e23
X24 10 14 e24
X25 11 12 e25
X26 11 15 e26
X27 12 16 e27
X28 13 14 e28
X29 13 16 e29
X30 14 15 e30
X31 15 16 e31
.options klu
.options TEMP = 27C
.options TNOM = 27C
.options itl1=40 itl2=40 itl4=6 itl5=60
.options gmin=1e-8 reltol=5e-3 abstol=1e-8 vntol=1e-5
.options rshunt=1e9
.op
.end
